US05051422
4-(3-Aminophenyl)-2-piperazinecarboxamide
To methanol add 4-(3-aminophenyl)-1-(phenylmethyl)-2-piperazinecarboxamide and Pd(OH)2. Place the reaction on a Parr hydrogenator at 50 psi of H2 and shake. Monitor the progress of the reaction by thin-layer chromatography. Upon completion of the reaction, remove the catalyst by suction filtration through celite. Remove solvent in vacuo to obtain the title compound.

reactant | 4-(3-aminophenyl)-1-(phenylmethyl)-2-piperazinecarboxamide | NC=1C=C(C=CC1)N1CC(N(CC1)CC1=CC=CC=C1)C(=O)N | C18H22N4O
catalyst | Pd(OH)2 | [OH-].[OH-].[Pd+2]
solvent | methanol | CO | CH4O
product | 4-(3-Aminophenyl)-2-piperazinecarboxamide | NC=1C=C(C=CC1)N1CC(NCC1)C(=O)N | C11H16N4O
